US07745641B2
In a similar manner to Step 1 of Example 152, 4-chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (70.0 mg, 0.111 mmol) was dissolved in dimethoxyethane (3.5 mL), and the solution was treated with 2,4,6-trivinylcyclotriboroxane-pyridine complex (53.6 mg, 0.222 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (7.3 mg, 0.0090 mmol), potassium carbonate (76.7 mg, 0.355 mmol) and water (0.060 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=9/1) to obtain 4-chloro-5-vinyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (33.6 mg, yield 60%).

reactant | 4-chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.111 mmol, 70.0 mg | ClC1=C2CNC(C2=C(C=C1OS(=O)(=O)C(F)(F)F)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H29ClF3N3O6S
reactant | 2,4,6-trivinylcyclotriboroxane-pyridine complex | 0.222 mmol, 53.6 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | potassium carbonate | 0.355 mmol, 76.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.060 mL | O | H2O
solvent | dimethoxyethane | 3.5 mL | C(OC)COC | C4H10O2
product | 4-chloro-5-vinyl-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 33.6 mg, yield 60% | ClC1=C2CNC(C2=C(C=C1C=C)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C29H32ClN3O3
